US07696193B2
3-Cyclobutyl-8-[(phenylmethyl)oxy]-2,3,4,5-tetrahydro-1H-3-benzazepine-7-carbonitrile (E269)
A mixture of 3-cyclobutyl-7-iodo-8-[(phenylmethyl)oxy]-2,3,4,5-tetrahydro-1H-3-benzazepine (E226) (250 mg, 0.58 mmol), tetrakis(triphenylphosphine)palladium (0) (33 mg, 0.029 mmol), copper (I) iodide (11 mg, 0.058 mmol) and sodium cyanide (56 mg, 1.15 mmol) in tetrahydrofuran (5 ml) was heated at reflux for 16 hours. The mixture was cooled and diluted with ethyl acetate, filtered through celite, washed with water then brine and dried over sodium sulfate and concentrated in vacuo. The crude mixture was purified by reverse phase HPLC to afford the title compound; MS (ES+) m/e 333 [M+H]+.

reactant | 3-cyclobutyl-7-iodo-8-[(phenylmethyl)oxy]-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.58 mmol, 250 mg | C1(CCC1)N1CCC2=C(CC1)C=C(C(=C2)I)OCC2=CC=CC=C2 | C21H24INO
reactant | sodium cyanide | 1.15 mmol, 56 mg | [C-]#N.[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.029 mmol, 33 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper (I) iodide | 0.058 mmol, 11 mg | [Cu]I
product | 3-Cyclobutyl-8-[(phenylmethyl)oxy]-2,3,4,5-tetrahydro-1H-3-benzazepine-7-carbonitrile | C1(CCC1)N1CCC2=C(CC1)C=C(C(=C2)C#N)OCC2=CC=CC=C2 | C22H24N2O
